US08003649B2
A stirred solution of 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (3.48 g, 15.65 mmol), piperazine-1-carbonitrile (2 g, 17.99 mmol) and DIPEA (3.54 mL, 20.34 mmol) in DMF (20 mL) was heated at 70° C. for 1 hour. The solution was evaporated and partitioned between DCM and 1M aqueous K2CO3. The organic phase was washed with brine, dried over MgSO4, evaporated and triturated with ether. The precipitate was collected by filtration, washed with ether and dried under vacuum to afford 4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazine-1-carbonitrile (4.29 g, 92%) as a cream crystalline solid.

reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 15.65 mmol, 3.48 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | piperazine-1-carbonitrile | 17.99 mmol, 2 g | N1(CCNCC1)C#N | C5H9N3
reactant | DIPEA | 20.34 mmol, 3.54 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazine-1-carbonitrile | 4.29 g, 92% | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)C#N)(F)F | C11H10F3N7
